US08614237B2
6,7-dibromo-3-(4-(thiazol-2-ylmethoxy)benzoyl)benzofuran-4,5-dione (SKI 417522)
To a suspension of (6,7-dibromo-5-hydroxybenzofuran-3-yl)(4-(thiazol-2-ylmethoxy)phenyl)methanone (70 mg, 0.137 mmol) in acetic acid (1 mL) was added nitric acid—69% (44.2 μl, 0.687 mmol) and the mixture heated at 60° C. for 1 hour. During this time the suspension turned bright red/orange and partially dissolved. After this time, the mixture was added to ice-water, then filtered to afford crude product as a red solid.

reactant | (6,7-dibromo-5-hydroxybenzofuran-3-yl)(4-(thiazol-2-ylmethoxy)phenyl)methanone | 0.137 mmol, 70 mg | BrC1=C(C2=C(C(=CO2)C(=O)C2=CC=C(C=C2)OCC=2SC=CN2)C=C1O)Br | C19H11Br2NO4S
reactant | nitric acid | 0.687 mmol, 44.2 μl | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 6,7-dibromo-3-(4-(thiazol-2-ylmethoxy)benzoyl)benzofuran-4,5-dione | BrC1=C(C2=C(C(=CO2)C(C2=CC=C(C=C2)OCC=2SC=CN2)=O)C(C1=O)=O)Br | C19H9Br2NO5S
